*BZG05C10 MCE 4/7/98
*Ref: Temic Semiconductor Short Form, 1996
*10V 3W Si Zener pkg:DO214 1,2
.SUBCKT BZG05C10 1 2
*    TERMINALS:  A K
D1 1 2  DF
DZ 3 1  DR
VZ 2 3  9.491
.MODEL DF D (IS=15.1N RS=14M N=1.7 CJO=207P VJ=0.75 M=0.33 TT=50.1N)
.MODEL DR D (IS=3.67P RS=0.379 N=0.85)
.ENDS